US05591862
A toluene solution of diisobutylaluminum hydride (1.5M, 67 ml) was added dropwise at 0° C. to a suspension of ethyl 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]cinnamate (15.0 g) in toluene (200 ml). The mixture was stirred for 2 hours at room temperature, to which was added 2N HCl (200 ml) under ice-cooling. The organic layer was washed with water, dried (MgSO4) and concentrated to give (E)-3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]-2-propen-1-ol (12,0 g, 90%), which was recrystallized from ethyl acetate to give colorless prisms, m.p.127°-128° C.

reactant | diisobutylaluminum hydride | 1.5M, 67 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]cinnamate | 15.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=CC(=O)OCC)C=C1 | C23H23NO4
reactant | HCl | 2N, 200 ml | Cl | ClH
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]-2-propen-1-ol | 12,0 g, 90% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)/C=C/CO | C21H21NO3
